US07642264B2
N-tert-Butyl-3-{2-[6-methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-thiazol-4-yl}-benzenesulfonamide
The title compound was prepared from 2-(4-bromo-thiazol-2-yl)-6-methyl-4-(4-trifluoromethyl-phenyl)-pyridine (example E.80) (0.5 g, 1.253 mmol) and commercially available 3-(tert-butylsulfamoyl)-benzeneboronic acid (0.354 g, 1.378 mmol) according to the general procedure VI. Obtained as a white solid (0.10 g, 15%) and additional off-white solid (0.40 g, 60%). MS (ISP) 532.1 [(M+H)+]; mp 196° C.

reactant | 2-(4-bromo-thiazol-2-yl)-6-methyl-4-(4-trifluoromethyl-phenyl)-pyridine | 1.253 mmol, 0.5 g | BrC=1N=C(SC1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C | C16H10BrF3N2S
reactant | 3-(tert-butylsulfamoyl)-benzeneboronic acid | 1.378 mmol, 0.354 g | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=CC1)B(O)O | C10H16BNO4S
product | N-tert-Butyl-3-{2-[6-methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-thiazol-4-yl}-benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C=1N=C(SC1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C | C26H24F3N3O2S2
